US08709994B2
A solution of potassium hydroxide (24 g, 0.36 mol, 0.6 eq, with a purity of 85%) in ethylene glycol (120 g) and water (12 g) was charged into a 500 mL three-necked round-bottom flask equipped with a reflux condenser and a mechanical stirrer. 3-methyl benzaldehyde (70 g, 0.59 mol) was added dropwise. The stirred reaction mixture was heated at 38-42° C. and propionaldehyde (41 g, 0.71 mol, 1.2 eq) was dosed in over 3.25 h. After a further hour at 40° C., the reaction mixture was cooled to ambient temperature and the two layers separated. The organic layer thus obtained was washed with water (2×100 mL), dried over magnesium sulphate and concentrated. The resulting crude product was distilled via a Vigreux column (1.0 mBar, 87-92° C.), to give (2E)-2-methyl-3-(3-methylphenyl)acrylaldehyde (65.9 g, gc purity>95%; yield 70%).

reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 12 g | O | H2O
reactant | 3-methyl benzaldehyde | 0.59 mol, 70 g | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | propionaldehyde | 0.71 mol, 41 g, 1.2 eq | C(CC)=O | C3H6O
solvent | ethylene glycol | 120 g | C(CO)O | C2H6O2
product | (2E)-2-methyl-3-(3-methylphenyl)acrylaldehyde | 65.9 g, yield 70% | C/C(/C=O)=C\C1=CC(=CC=C1)C | C11H12O
